US05198449
N-[(4-Fluorophenyl)[1-(3-phenoxypropyl)-4-piperidinyl]methyl]-2-pyrimidinamine
α-(4-Fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanamine and 2-chloropyrimidine (equimolar quantities) are heated together in tetrahydrofuran at reflux temperature until the reaction is judged complete. The reaction mixture is concentrated and the residual material is partitioned between 1N NaOH solution and methylene chloride. The methylene chloride layer is dried and concentrated to obtain the title compound.

reactant | α-(4-Fluorophenyl)-1-(3-phenoxypropyl)-4-piperidinemethanamine | FC1=CC=C(C=C1)C(N)C1CCN(CC1)CCCOC1=CC=CC=C1 | C21H27FN2O
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[(4-Fluorophenyl)[1-(3-phenoxypropyl)-4-piperidinyl]methyl]-2-pyrimidinamine | FC1=CC=C(C=C1)C(NC1=NC=CC=N1)C1CCN(CC1)CCCOC1=CC=CC=C1 | C25H29FN4O
